US04301278
Analogously to Example 1d), 10.8 g (16.2 mM) of 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylene-butyric acid diphenylmethyl ester in 1 l of methylene chloride and 1.1 equivalents of ozone give 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester; melting point 142°-143° C. (from ether/pentane).

reactant | ozone | 1.1 equivalents | O=[O+][O-] | O3
reactant | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/O)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(COC1=CC=CC=C1)=O)=O)=O | C35H32N2O8S2
reactant | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
product | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylene-butyric acid diphenylmethyl ester | 16.2 mM, 10.8 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(C(C)=C)N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(COC1=CC=CC=C1)=O)=O)=O | C36H34N2O7S2
